US07544704B2
b) 2-Ethynyl-3-methyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine
As described for example 3a, 1-ethyl-4-iodo-5-methyl-2-propyl-1H-imidazole (2.60 g, 9.92 mmol) instead of 2-amino-5-bromopyridine was converted to 3-methyl-2-trimethylsilanyl-ethynyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine (SiO2, dichloromethane:methanol=100:0 to 98:2, 890 mg, 39%) which was obtained as a dark brown semisolid and used further without detailed characterization. As described for example 3b, 3-methyl-2-trimethylsilanylethynyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine (890 g, 3.83 mmol) instead of 5-trimethylsilanyl-ethynyl-pyridin-2-ylamine was converted to the title compound (SiO2, ethyl acetate, 310 mg, 51%) which was obtained as a light brown solid. MS: m/e=161.3 [M+H]+.

reactant | 1-ethyl-4-iodo-5-methyl-2-propyl-1H-imidazole | 9.92 mmol, 2.60 g | C(C)N1C(=NC(=C1C)I)CCC | C9H15IN2
reactant | 3-methyl-2-trimethylsilanyl-ethynyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 890 mg | CC1=C(N=C2N1CCCC2)C#C[Si](C)(C)C | C13H20N2Si
reactant | 3-methyl-2-trimethylsilanylethynyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 3.83 mmol, 890 g | CC1=C(N=C2N1CCCC2)C#C[Si](C)(C)C | C13H20N2Si
product | 2-Ethynyl-3-methyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 310 mg, 51% | C(#C)C=1N=C2N(CCCC2)C1C | C10H12N2
